US09303012B2
a) 1-(2-Chloro-6-methylpyridin-3-yl)cyclobutanol
A suspension of molecular sieves (4 Å) and 3-bromo-2-chloro-6-methylpyridine (CAN 185017-72-5, 5 g, 24.2 mmol) in THF (50 mL) was cooled to −15° C. 1.3 M isopropyl magnesium chloride lithium chloride complex solution in THF (19.6 mL, 25.4 mmol) was added within 30 min. Stirring was continued for 1 h at −15° C. Cyclobutanone (1.87 g, 2.00 mL, 26.6 mmol) was slowly added. Stirring was continued for 2 h at −15° C. and for further 2 h at 0° C. Water (2.5 mL) was added, the mixture was concentrated in vacuo, and poured onto sat. aqueous NH4Cl solution. The mixture was extracted with EtOAc (2×100 mL). The combined extracts were washed with ice water (50 mL), dried over Na2SO4 and concentrated in vacuo. The residue was purified by flash chromatography (silica gel, 140 g, heptane/EtOAc 0-40% in 120 min.) to give the title compound (3.33 g, 70%) as white solid, MS (ESI): m/e=198.1 [MH+].

reactant | 3-bromo-2-chloro-6-methylpyridine | 24.2 mmol, 5 g | BrC=1C(=NC(=CC1)C)Cl | C6H5BrClN
reactant | Cyclobutanone | 26.6 mmol, 2.00 mL, 1.87 g | C1(CCC1)=O | C4H6O
reactant | Water | 2.5 mL | O | H2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 25.4 mmol, 19.6 mL | C1CCOC1 | C4H8O
product | 1-(2-Chloro-6-methylpyridin-3-yl)cyclobutanol | 3.33 g, 70% | ClC1=NC(=CC=C1C1(CCC1)O)C | C10H12ClNO
